US07528176B2
2-Heptanoyl-5-bromothiophene (4).
2-Bromothiophene (1.63 g, 10.0 mmol) and heptanoyl chloride (1.78 g, 12.0 mmol) were dissolved in dry benzene (15 mL) and AlCl3 was added in portions with stirring over 10 min. The resulting dark brown solution was refluxed for 1 hr and left to cool down to room temperature. The mixture was quenched with 2M HCl (15 mL) carefully while stirred. The organic layer was separated, washed with 2M HCl, 2M NaOH, and water, and passed through silica column (d=3 cm, I=8 cm). The solution was dried over MgSO4, and concentrated in vacuo (2.40 g, 87%).

reactant | 2-Bromothiophene | 10.0 mmol, 1.63 g | BrC=1SC=CC1 | C4H3BrS
reactant | heptanoyl chloride | 12.0 mmol, 1.78 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 2-Heptanoyl-5-bromothiophene | C(CCCCCC)(=O)C=1SC(=CC1)Br | C11H15BrOS
